US04283414
A mixture of 4-chlorophenylacetic acid (34 g) and red phosphorus (1.5 g) was stirred under an atmosphere of nitrogen and dry bromine (20 g) was carefully added over a period of 30 minutes. The reaction mixture was heated to a temperature of 100° C. and dry bromine (32 g) was carefully added over a periof of 45 minutes. The mixture was then heated under reflux for 3 hours and cooled. Ethyl alcohol (100 ml) was added to the reaction mixture and the mixture allowed to stand overnight. The ethanolic mixture was diluted with water and extracted with ethylene dichloride. The extract was washed with aqueous sodium carbonate, dried over anhydrous sodium sulfate and the solvent removed by distillation under reduced pressure. The product was distilled through a Fenske ring column to give ethyl α-bromo-4-chlorophenylacetate (33.4 g; 65%) b.p. 119° C. at 0.9 mm of Hg.

reactant | 4-chlorophenylacetic acid | 34 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | bromine | 20 g | BrBr | Br2
reactant | bromine | 32 g | BrBr | Br2
reactant | Ethyl alcohol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | ethyl α-bromo-4-chlorophenylacetate | 33.4 g, 65% | BrC(C(=O)OCC)C1=CC=C(C=C1)Cl | C10H10BrClO2
